US07897612B2
6b) N-{[4-hydroxy-2-oxo-1-(phenylmethyl)-1,2-dihydro-1,7-naphthyridin-3-yl]carbonyl}glycine
A solution of the compound from Example 6a) (0.500 g, 1.90 mmol) in methylene chloride (20.0 mL) was treated with (4-dimethylamino)pyridine (0.040 mL, 0.38 mmol) followed by ethyl malonyl chloride (0.260 mL, 2.09 mmol). The mixture was stirred overnight at ambient temperature, followed by addition of triethylamine (1.00 mL, 7.17 mmol). Following stirring 1 h at ambient temperature, the reaction mixture was concentration in vacuo. The residue was dissolved in ethanol (2.0 mL), treated with sodium ethoxide (0.700 mL, 1.90 mmol, 21% solution in ethanol) at ambient temperature, and stirred overnight. The solution was concentrated in vacuo, filtered through a plug of silica with ethyl acetate, and concentrated in vacuo. The resulting residue was dissolved in ethanol (3.0 mL) and treated with glycine sodium salt (0.110 g, 1.54 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.230 mL, 1.54 mmol) and heated to 180° C. for 30 min. in a Biotage Initiator microwave synthesizer. The reaction was diluted with water, acidified with 1 N aqueous hydrochloric acid, and the resulting precipitate was filtered, washed with methanol, and dried in vacuo to afford the title compound as a light brown solid (0.175 g, 32%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 13.0 (br. s., 1H), 10.5 (t, J=5.6 Hz, 1H), 8.75 (dd, J=4.7, 1.9 Hz, 1H), 8.54 (dd, J=8.0, 1.9 Hz, 1H), 7.31-7.43 (m, 3H), 7.14-7.30 (m, 3H), 5.75 (s, 2H), 4.20 (d, J=5.6 Hz, 2H). MS(ES+) m/e 354 [M+H]+.

reactant | ethyl malonyl chloride | 2.09 mmol, 0.260 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | triethylamine | 7.17 mmol, 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | sodium ethoxide | 1.90 mmol, 0.700 mL | [O-]CC.[Na+]
reactant | glycine sodium salt | 1.54 mmol, 0.110 g | [Na+].NCC(=O)[O-]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.54 mmol, 0.230 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | water | O | H2O
solvent | methylene chloride | 20.0 mL | C(Cl)Cl | CH2Cl2
product | N-{[4-hydroxy-2-oxo-1-(phenylmethyl)-1,2-dihydro-1,7-naphthyridin-3-yl]carbonyl}glycine | 0.175 g, 32% | OC1=C(C(N(C2=CN=CC=C12)CC1=CC=CC=C1)=O)C(=O)NCC(=O)O | C18H15N3O5
